datasets/10k__Tet_Int.csv
SMILES Labelled
"[H][O+:21]=[C:20]2[S]C(CC)C([H])[S]2.C[S:10][H].[Cl-]>>[Cl-].C[S+:10]([H])[C:20]1([O:21][H])[S]C(CC)C([H])[S]1 10=20;20,21=21"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21][H])[O][CH](CC)C([H])[CH](C8=CC=CC=C8)[NH]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[O][CH](CC)[CH]([H])C(C8=CC=CC=C8)[NH]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"CCC1C(C(O[C:20](=[O:10])N1C)[H])[H].[O-:21]CC>>CCC1C(C(O[C:20](N1C)([O-:10])[O:21]CC)[H])[H] 21=20;20,10=10"
"CC1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)[H])CCCCCC.[O-:21]CCCCCC>>CC1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]CCCCCC)[H])CCCCCC 21=20;20,10=10"
"[O-:21][C:20]1(OC)C(O)C(O)C(C)C(CCC)[O+:10]1([Na])>>[O:10]([Na])C(CCC)C(C)C(O)C(O)[C:20](OC)=[O:21] 21=20;20,10=10"
"C9=CC=CC=C9[NH:10][H].CC[NH+:21]=[C:20]([O]C)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].C9=CC=CC=C9[NH+:10]([H])[C:20]([NH:21]CC)([O]C)[NH]C7=CC=CC=C7 10=20;20,21=21"
"[H][NH:10]C([H])C(C)[NH][C:20]([NH]CC)=[NH+:21]C.[Cl-]>>[Cl-].[H][NH+:10](C([H])C(C)[NH]1)[C:20]1([NH:21]C)[NH]CC 10=20;20,21=21"
"[H][S+:10](C(C)C(C)C(C)[O]1)[C:20]1([O:21][H])[O][H].[Cl-]>>[Cl-].[H][S:10]C(C)C(C)C(C)[O][C:20]([O][H])=[O+:21][H] 21=20;20,10=10"
"[H][O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH](C)C([H])[CH]([H])[NH]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH](C)[CH]([H])C([H])[NH]2.[H][O:10][H] 21=20;20,10=10"
"CN([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)[H])CCCCCC)[H]>>CN([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)[H])CCCCCC)[O-:10])[H] 21=20;20,10=10"
"C[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH](C)C([H])[CH]([H])[NH]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH](C)[CH]([H])C([H])[NH]2.C[O:10][H] 21=20;20,10=10"
"CN([C:20]1(OC(C(C([O:21]1)CCCCCC)CCCCCC)[H])[O-:10])C>>CN([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)CCCCCC)[H])C 10=20;20,21=21"
"[O-:21][C:20]1(OCC)C([H])=C([H])C([H])C(CC)[NH+:10]1([H])>>[NH:10]([H])C(CC)C([H])/C([H])=C([H])\[C:20](OCC)=[O:21] 21=20;20,10=10"
"C[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH]C(C7=CC=CC=C7)C([H])[O]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[NH]C(C7=CC=CC=C7)C([H])[O]2.C[NH:10][H] 21=20;20,10=10"
"CC[NH+:21]=[C:20]2[NH][CH](CC)[CH](C)C([H])[O]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]CC)[NH][CH](CC)C(C)[CH]([H])[O]1 10=20;20,21=21"
"CCCCCCC1C(C(O[C:20](=[O:10])N1CCCCCC)C)CC.[O-:21]CCCCCC>>CCCCCCC1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21]CCCCCC)C)CC 21=20;20,10=10"
"CN([C:20](=[O:10])OC(C([O-:21])CCCCCC)CCCCCC)CC>>CN([C:20]1(OC(C([O:21]1)CCCCCC)CCCCCC)[O-:10])CC 21=20;20,10=10"
"CC[NH+:21]=[C:20]2[O][CH](C)[CH]([H])C(CC)[O]2.[H][NH:10][H].[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]1([NH:21]CC)[O][CH](C)C([H])[CH](CC)[O]1 10=20;20,21=21"
"C[S+:10]([H])[C:20]1([O:21]C)[O][CH](C)C([H])[CH](CC)[S]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[O][CH](C)[CH]([H])C(CC)[S]2.C[S:10][H] 21=20;20,10=10"
"C[S+:10]([H])[C:20]1([O:21][H])[S][CH](C)C([H])[CH]([H])[S]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[S][CH](C)[CH]([H])C([H])[S]2.C[S:10][H] 21=20;20,10=10"
"C9=CC=CC=C9[O:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([O]C)[S]CC.[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]([O:21][Si](C)(C)(C))([O]C)[S]CC 10=20;20,21=21"
"C[NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH](C)C([H])[NH]2.CC[NH:10][H].[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]1([NH:21]C)[O][CH](C7=CC=CC=C7)C(C)[CH]([H])[NH]1 10=20;20,21=21"
"[H][O:10]C(C)C(C)C(C)[O][C:20]([O]CC)=[NH+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(C)C(C)C(C)[O]1)[C:20]1([NH:21][H])[O]CC 10=20;20,21=21"
"[H][O:10]C(C)C([H])C(C)[O][C:20]([O]CC)=[O+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(C)C([H])C(C)[O]1)[C:20]1([O:21]C)[O]CC 10=20;20,21=21"
"CC[S+:10]([H])[C:20]1([O:21]C)[S][CH]([H])C([H])[CH](CC)[O]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[S][CH]([H])[CH]([H])C(CC)[O]2.CC[S:10][H] 21=20;20,10=10"
"[Si](C)(C)(C)[O+:21]=[C:20]2[O]C(C)C(C)[O]2.CC[S:10][H].[Cl-]>>[Cl-].CC[S+:10]([H])[C:20]1([O:21][Si](C)(C)(C))[O]C(C)C(C)[O]1 10=20;20,21=21"
"[H][O:10]C([H])C(CC)[NH][C:20]([O][H])=[NH+:21]C.[Cl-]>>[Cl-].[H][O+:10](C([H])C(CC)[NH]1)[C:20]1([NH:21]C)[O][H] 10=20;20,21=21"
"CCN([C:20](=[O:10])OC(C(C([O-:21])C)CCCCCC)CC)[H]>>CCN([C:20]1(OC(C(C([O:21]1)C)CCCCCC)CC)[O-:10])[H] 21=20;20,10=10"
"C[O+:10]([H])[C:20]([NH:21]C6=CC=CC=C6)([NH]C8=CC=CC=C8)[O][H].[Cl-]>>[Cl-].C[O:10][H].C6=CC=CC=C6[NH+:21]=[C:20]([NH]C8=CC=CC=C8)[O][H] 21=20;20,10=10"
"[NH:10](C)C(C)/C([H])=C(C)\C(C)[C:20]([H])=[O:21]>>[O-:21][C:20]1([H])C(C)C(C)=C([H])C(C)[NH+:10]1(C) 10=20;20,21=21"
"CC[NH+:10]([H])[C:20]([NH:21]CC)([NH][H])[O][H].[Cl-]>>[Cl-].CC[NH:10][H].CC[NH+:21]=[C:20]([NH][H])[O][H] 21=20;20,10=10"
"[H][O+:21]=[C:20]2[S][CH](C7=CC=CC=C7)[CH]([H])C(C)[S]2.C[S:10][H].[Cl-]>>[Cl-].C[S+:10]([H])[C:20]1([O:21][H])[S][CH](C7=CC=CC=C7)C([H])[CH](C)[S]1 10=20;20,21=21"
"CCN([C:20](=[O:10])OC(C(C([O-:21])C)CCCCCC)CC)CC>>CCN([C:20]1(OC(C(C([O:21]1)C)CCCCCC)CC)[O-:10])CC 21=20;20,10=10"
"C1=CC=CC=C1C1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21][H])C)CCCCCC>>C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)C)CCCCCC.[O-:21][H] 10=20;20,21=21"
"CCC1C(C(O[C:20](N1[H])([O-:10])[O:21]C)CC)CCCCCC>>CCC1C(C(O[C:20](=[O:10])N1[H])CC)CCCCCC.[O-:21]C 10=20;20,21=21"
